US04977258
3-(5-tert-Butyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][4,1]benzoxazepine (III)
5,6-Dihydro-6-oxo-4H-imidazo[1,5-a][4,1]benzoxazepin-3-amidoxime (I.9 g, 7 mmole) in trimethylacetic anhydride (6 ml) was heated at 150° C. for 1 hour. The crude product in ethyl acetate:hexane (1:1) was chromatographed and then crystallised from ethyl acetate to give the product (1.6 g, 66%), m.p. 210°-211° C.

reactant | 5,6-Dihydro-6-oxo-4H-imidazo[1,5-a][4,1]benzoxazepin-3-amidoxime | 7 mmole, 9 g | O=C1OCC=2N(C3=C1C=CC=C3)C=NC2C(N)=NO | C12H10N4O3
reactant | trimethylacetic anhydride | 6 ml | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
product | 3-(5-tert-Butyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][4,1]benzoxazepine | 1.6 g, 66% | C(C)(C)(C)C1=NC(=NO1)C=1N=CN2C1COC(C1=C2C=CC=C1)=O | C17H16N4O3
